US08957206B2
In a specific embodiment, the invention provides a method of manufacturing molindone through a 3-step process, wherein in the 1st step 2,3-pentadione is reacted with hydroxylamine hydrochloride to produce 2,3-pentanedione-2-oxime (SUMO-1); in the 2nd step 2,3-pentanedione-2-oxime and 1,3-cyclohexanedione are reacted to produce 2-methyl-3-ethyl-4-oxo-4,5,6,7-tetrahydroindole (SUMO-2); and in the 3rd step 2-methyl-3-ethyl-4-oxo-4,5,6,7-tetrahydroindole reacts with bismorpholinomethane to produce molindone (SUMO-3).

reactant | 2,3-pentanedione-2-oxime | CC(C(CC)=O)=NO | C5H9NO2
reactant | 1,3-cyclohexanedione | C1(CC(CCC1)=O)=O | C6H8O2
product | 2-methyl-3-ethyl-4-oxo-4,5,6,7-tetrahydroindole | CC=1NC=2CCCC(C2C1CC)=O | C11H15NO
